US07166597B2
a) 1-(4-fluorophenyl)-2-(4-pyrimidinyl)-ethanone
To a stirred solution of 4-methylpyrimidine (20.64 g, 0.22 mol) and ethyl 4-fluorobenzoate (36.9 g, 0.22 mol) in dry THF (100 mL) at 0° C. under nitrogen was added lithium bis(trimethylsilyl)amide (1M in THF, 440 mL, 0.44 mol) over a 2 h period. A white precipitate deposited during the addition and this suspension was stirred at room temperature overnight. The reaction was diluted with 100 mL of water and filtered. The filtrate was washed with water (3×) and dried. The solution was diluted with ethyl acetate (100 mL) and the organic phase separated. The aqueous phase was further extracted with ethyl acetate (100 mL). Organic phases were dried (MgSO4) and concentrated and combined with the filtrate to give a combined yield of 47 g (98%) of product. 1H NMR (CDCl3) exists as a 2:1 mixture of enol:keto tautomers: 6 enol form: 5.95 (s, 1H), 6.92 (dd, J=1.2, 5.7 Hz, 1H), 7.06–7.14 (m, 2H), 7.83 (dd, J=5.4, 8.7 Hz, 2H), 8.40 (d, J=5.7 Hz, 1H), 8.8 (s, 1H); keto form: 4.42 (s, 2H), 7.12–7.18 (m, 2H), 7.34 (d, J=4.2 Hz, 1H), 8.06 (dd, J=5.3, 8.8 Hz, 2H), 8.67 (d, J=5.1 Hz, 1H), 9.16 (s, 1H); APESI-MS m/z 215 (M−1)−.

reactant | 4-methylpyrimidine | 0.22 mol, 20.64 g | CC1=NC=NC=C1 | C5H6N2
reactant | ethyl 4-fluorobenzoate | 0.22 mol, 36.9 g | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | lithium bis(trimethylsilyl)amide | 0.44 mol, 1M, 440 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | 1-(4-fluorophenyl)-2-(4-pyrimidinyl)-ethanone | yield of 47 g, 98% | FC1=CC=C(C=C1)C(CC1=NC=NC=C1)=O | C12H9FN2O
